US07307095B2
3-Cyclohexyl-2-(S)-(5-fluoro-benzooxazol-2-ylamino)-N-[2-(4-fluoro-phenylamino)-ethyl]-propionamide.
The title compound was prepared from 2-chloro-5-fluorobenzoxazole, L-cyclohexylalanine and N1-(4-fluoro-phenyl)-ethane-1,2-diamine.2HCl using the procedure analogous to that described in example 2. 1H NMR (DMSO-d6, 400 MHz) δ 8.29 (d, 1H, J=8.0 Hz), 8.16 (t, 1H, J=5.6 Hz), 7.27 (dd, 1H, J=4.4 Hz, J=8.4 Hz), 6.97 (dd, 1H, J=2.6 Hz, J=9.4 Hz), 6.80 (m, 2H), 6.72(m, 1H), 6.46(m, 2H), 5.42(m, 1H), 4.20 (m, 1H), 3.15(m, 2H), 2.95(m, 2H), 1.55(m, 7H), 1.30(m, 1H), 1.05(m, 3H), 0.83(m, 2H). HPLC-MS calcd. for C24H28F2N4O2(M+H+) 443.22, found 443.5.

reactant | 2-chloro-5-fluorobenzoxazole | ClC=1OC2=C(N1)C=C(C=C2)F | C7H3ClFNO
reactant | L-cyclohexylalanine | C1CCC(CC1)C[C@@H](C(=O)O)N | C9H17NO2
reactant | N1-(4-fluoro-phenyl)-ethane-1,2-diamine | FC1=CC=C(C=C1)NCCN | C8H11FN2
product | 3-Cyclohexyl-2-(S)-(5-fluoro-benzooxazol-2-ylamino)-N-[2-(4-fluoro-phenylamino)-ethyl]-propionamide | C1(CCCCC1)C[C@@H](C(=O)NCCNC1=CC=C(C=C1)F)NC=1OC2=C(N1)C=C(C=C2)F | C24H28F2N4O2
